US05536724
2,4-Diamino-5-propylpyrido[2,3-d]pyrimidine-6-methanol (III-1, where R1 is propyl)
2,4-Diamino-5-propylpyrido [2,3-d]pyrimidine-6-carboxaldehyde (95 mg, 0.41 mmol) was stirred with MeOH (20 mL), and the near-solution was treated with 3 portions of NaBH4 (17 mg total, 0.45 mmol) added at 15-min intervals. Complete solution occurred after the first addition of NaBH4. The solution was left at 20°-25° C. for 1 hour. The solution was treated with H2O (1 mL), neutralized to pH 7 with glacial AcOH, and evaporated to near dryness. Solid residue was stirred with a little cold H2O (~1 mL), collected, and dried to give a first crop of 6-hydroxymethyl compound (III-1, where R1 is propyl); yield 31% (30 mg). The filtrate from this compound was evaporated to dryness, and the residue was extracted several times with boiling EtOAc to provide additional product (80 mg).

reactant | 2,4-Diamino-5-propylpyrido [2,3-d]pyrimidine-6-carboxaldehyde | 0.41 mmol, 95 mg | NC=1N=C(C2=C(N1)N=CC(=C2CCC)C=O)N | C11H13N5O
reactant | MeOH | 20 mL | CO | CH4O
reactant | NaBH4 | 0.45 mmol, 17 mg | [BH4-].[Na+]
reactant | H2O | 1 mL | O | H2O
solvent | AcOH | CC(=O)O | C2H4O2
product | 2,4-Diamino-5-propylpyrido[2,3-d]pyrimidine-6-methanol | 80 mg, yield 31% | NC=1N=C(C2=C(N1)N=CC(=C2CCC)CO)N | C11H15N5O
